US04966828
(B) 2-(p-trichloromethylbenzoylmethylene)-3-ethyl-benzothiazoline (compound 1).
35 g (0.1 mol) of 3-ethyl-2-methyl-benzothiazolium p-toluenesulfonate are suspended in 300 ml of toluene, 28 g (0.11 mol) of p-trichloromethyl-benzoyl chloride are added, and 23 g (0.23 mol; 31.5 ml) of triethylamine are added dropwise at 15° C.

reactant | 3-ethyl-2-methyl-benzothiazolium p-toluenesulfonate | 0.1 mol, 35 g | C1(=CC=C(C=C1)S(=O)(=O)[O-])C.C(C)[N+]1=C(SC2=C1C=CC=C2)C
reactant | p-trichloromethyl-benzoyl chloride | 0.11 mol, 28 g | ClC(C1=CC=C(C(=O)Cl)C=C1)(Cl)Cl | C8H4Cl4O
reactant | triethylamine | 0.23 mol, 31.5 ml, 23 g | C(C)N(CC)CC | C6H15N
solvent | toluene | 300 ml | C1(=CC=CC=C1)C | C7H8
product | 2-(p-trichloromethylbenzoylmethylene)-3-ethyl-benzothiazoline | ClC(C1=CC=C(C(=O)C=C2SC3=C(N2CC)C=CC=C3)C=C1)(Cl)Cl | C18H14Cl3NOS
